US07759495B2
(S)-1-(2-(5-(2-chloropyrimidin-5-yl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-2-(pyridin-3-yl)ethanone
HATU (0.60 g, 1.57 mmol) was added in one portion to a stirred solution of intermediate (S)-2-chloro-5-(2-(pyrrolidin-2-yl)-1H-imidazol-5-yl)pyrimidine trihydrochloride (0.46 g, 1.43 mmol, theoretical amount), 2-(pyridin-3-yl)acetic acid (0.25 g, 1.43 mmol) and DIEA (1.0 mL, 5.72 mmol) in anhydrous DMF (10 mL) at ambient temperature. The mixture was stirred at room temperature for 2 h before the DMF was removed in vacuo. The residue was taken up in CH2Cl2 and subjected to Biotage™ flash chromatography on silica gel (40M column, preequilibration with 0% B for 600 mL followed by step gradient elution with 0% B to 0% B for 150 mL followed by 0% B to 15% B for 1500 mL followed by 15% B to 25% B for 999 mL where B=MeOH and A=CH2Cl2). There was isolated the title compound (0.131 g, 25%, 2 steps) as a yellow solid.

reactant | HATU | 1.57 mmol, 0.60 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-chloro-5-(2-(pyrrolidin-2-yl)-1H-imidazol-5-yl)pyrimidine trihydrochloride | 1.43 mmol, 0.46 g | Cl.Cl.Cl.ClC1=NC=C(C=N1)C1=CN=C(N1)[C@H]1NCCC1
reactant | 2-(pyridin-3-yl)acetic acid | 1.43 mmol, 0.25 g | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | DIEA | 5.72 mmol, 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-1-(2-(5-(2-chloropyrimidin-5-yl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-2-(pyridin-3-yl)ethanone | 0.131 g, 25% | ClC1=NC=C(C=N1)C1=CN=C(N1)[C@H]1N(CCC1)C(CC=1C=NC=CC1)=O | C18H17ClN6O
